US05128327
Step B: Preparation of 2-propyl-4-methyl-1-[4-[3-(1H-tetrazol-5-yl)-4-pyridinyl]phenyl]methylbenzimidazole
The title compound may be prepared by treatment of 2-propyl-4-methyl-1-[4-[3-cyano-4-pyridinyl]phenyl]methylbenzimidazole with one or more equivalents of Me3SnN3 in toluene at reflux over a period of 1-3 days. The title compound may be purified in a manner similar to that stated in Example 1, Step F.

reactant | 2-propyl-4-methyl-1-[4-[3-cyano-4-pyridinyl]phenyl]methylbenzimidazole | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=NC=C1)C#N)C=CC=C2C | C24H22N4
reactant | Me3SnN3 | [Sn](C)(C)(C)N=[N+]=[N-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-propyl-4-methyl-1-[4-[3-(1H-tetrazol-5-yl)-4-pyridinyl]phenyl]methylbenzimidazole | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=NC=C1)C1=NN=NN1)C=CC=C2C | C24H23N7
